US04789683
(-)-N-n-propyl-2-(3-bromo-2-hydroxy-6-methoxybenzamidomethyl)pyrrolidine hydrochloride
The title compound was prepared from (-)-N-n-propyl-2-(3-bromo-2,6-dimethoxybenzamidomethyl)pyrrolidine by dealkylation in the same manner as described in Example 2. Yield 48%. M.p. (HCl) 140°-141° C. (acetone). [α]D25 =-78° C. (c=0.80, EtOH) base.

reactant | (-)-N-n-propyl-2-(3-bromo-2,6-dimethoxybenzamidomethyl)pyrrolidine | C(CC)N1C(CCC1)CNC(C1=C(C(=CC=C1OC)Br)OC)=O | C17H25BrN2O3
reactant | HCl | Cl | ClH
reactant | acetone | CC(=O)C | C3H6O
solvent | EtOH | CCO | C2H6O
product | (-)-N-n-propyl-2-(3-bromo-2-hydroxy-6-methoxybenzamidomethyl)pyrrolidine hydrochloride | Yield 48% | Cl.C(CC)N1C(CCC1)CNC(C1=C(C(=CC=C1OC)Br)O)=O | InChI=1S/C16H23BrN2O3.ClH/c1-3-8-19-9-4-5-11(19)10-18-16(21)14-13(22-2)7-6-12(17)15(14)20;/h6-7,11,20H,3-5,8-10H2,1-2H3,(H,18,21);1H
